US08012966B2
A stirred solution of 2-{[(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-carbamoyl]-methyl}-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (5.937 g, 17.62 mmol) in tetrahydrofuran (50 ml) was added slowly with another portion of 1M borane-tetrahydrofuran complex in tetrahydrofuran (52.1 ml, 52.1 mmol) under an argon atmosphere. Upon completion of the addition, the mixture was stirred for 1.5 hours at room temperature, heated to reflux for 1.5 hours and stirred at room temperature overnight. The resulting mixture was added with 1M borane-tetrahydrofuran complex in tetrahydrofuran (36 ml, 36 mmol) and stirred at room temperature for 0.5 hour, heated to reflux for another 5 hours. The mixture was added dropwise with 2 N hydrochloric acid in an ice-water bath. The resulting mixture was adjusted to pH 8 with 2N aqueous sodium hydroxide solution and distilled under reduced pressure. The residue was extracted with ethyl acetate (80 ml×8). The combined extracts were dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 2-{2-[(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-amino]-ethyl}-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (5.931 g) as an orange solid which was used as such.

reactant | 2-{[(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-carbamoyl]-methyl}-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 17.62 mmol, 5.937 g | C(C)OC(=O)C1=C(NC=C1C)CC(NCC1(CCN(CC1)C)O)=O | C17H27N3O4
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 36 mmol, 36 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 52.1 mmol, 52.1 ml | O1CCCC1 | C4H8O
product | 2-{2-[(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-amino]-ethyl}-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 5.931 g | C(C)OC(=O)C1=C(NC=C1C)CCNCC1(CCN(CC1)C)O | C17H29N3O3
